US09376436B2
To a solution of (5S)-2-(4-bromo-2-pyridyl)-1,7-diazaspiro[4.4]non-1-en-6-one (which may be prepared as described in Description 19) (200 mg, 0.6800 mmol) in 1,2-dimethoxyethane (3 mL) and water (1 mL) was added [4-(trifluoromethyl)phenyl]-boronic acid (142.05 mg, 0.7500 mmol) and sodium carbonate (216.2 mg, 2.04 mmol). The reaction mixture was degassed with nitrogen and then treated with bis(triphenylphosphine)palladium (II) dichloride (23.86 mg, 0.0300 mmol). The reaction mixture was heated in the microwave at 120° C. for 50 minutes then cooled and diluted with dichloromethane and water. After separation of the layers, the aqueous phase was re-extracted with dichloromethane and the combined organic phases passed through a hydrophobic frit. The solvent was evaporated and the residue purified by silica gel chromatography eluting with 0-20% methanol in ethyl acetate to give (5S)-2-[4-[4-(trifluoromethyl)-phenyl]-2-pyridyl]-1,7-diazaspiro[4.4]non-1-en-6-one (D20) as a pale yellow solid (181 mg);

reactant | (5S)-2-(4-bromo-2-pyridyl)-1,7-diazaspiro[4.4]non-1-en-6-one | 0.6800 mmol, 200 mg | BrC1=CC(=NC=C1)C1=N[C@]2(CC1)C(NCC2)=O | C12H12BrN3O
reactant | [4-(trifluoromethyl)phenyl]-boronic acid | 0.7500 mmol, 142.05 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 2.04 mmol, 216.2 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 3 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | bis(triphenylphosphine)palladium | 0.0300 mmol, 23.86 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | (5S)-2-[4-[4-(trifluoromethyl)-phenyl]-2-pyridyl]-1,7-diazaspiro[4.4]non-1-en-6-one | 181 mg | FC(C1=CC=C(C=C1)C1=CC(=NC=C1)C1=N[C@]2(CC1)C(NCC2)=O)(F)F | C19H16F3N3O
